US07648987B2
b) 1-(3-Benzyloxy-phenyl)-8-chloro-2H-imidazo[1,5-a]pyrazin-3-one
A solution C-(3-benzyloxy-phenyl)-C-(3-chloro-pyrazin-2-yl)-methylamine hydrochloride (5 g, 13.8 mmol) and CDI (2.46 g, 15.19 mmol) in anhydrous THF (70 mL) was charged with DIEA (2.40 mL, 13.8 mmol) and heated to 80° C. for 1 h and then concentrated in vacuo. The crude material was partitioned between EtOAc and H2O and separated. The aqueous layer was washed with EtOAc (3×) and the combined organic layers were washed with brine (1×), dried over Na2SO4, filtered and concentrated in vacuo. The crude was purified by chromatography on silica gel [eluting with 5% MeOH in DCM], to yield the desired product as a yellow solid; 1H NMR (DMSO-d6, 400 MHz) δ 5.17 (s, 2H), 6.86 (d, J=5.2 Hz, 1H), 7.10-7.16 (m, 2H), 7.22-7.23 (m, 1H), 7.34-7.48 (m, 6H), 7.50 (d, J=7.9 Hz, 1H); MS (ES+): m/z=352.15 (100) [MH+], HPLC: tR=3.19 min (MicromassZQ, polar—5 min)

reactant | C-(3-benzyloxy-phenyl)-C-(3-chloro-pyrazin-2-yl)-methylamine hydrochloride | 13.8 mmol, 5 g | Cl.C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(C1=NC=CN=C1Cl)N
reactant | CDI | 15.19 mmol, 2.46 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | DIEA | 13.8 mmol, 2.40 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 1-(3-Benzyloxy-phenyl)-8-chloro-2H-imidazo[1,5-a]pyrazin-3-one | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C=1NC(N2C1C(=NC=C2)Cl)=O | C19H14ClN3O2
